US07767675B2
Step 1. tert-butyl 4-(cyanomethylene)piperidine-1-carboxylate
To a solution of 1.0 M of potassium tert-butoxide in THF (26.3 mL) at 0° C. was added drop wise a solution of diethyl cyanomethylphosphonate (4.47 mL, 0.0276 mol) in THF (33.6 mL). The reaction was warmed to RT and then cooled at 0° C. again. To the reaction mixture was then added a solution of tert-butyl 4-oxo-1-piperidinecarboxylate (5.0 g, 0.025 mol) in THF (6.72 mL). The reaction was allowed to warm up to RT and stirred overnight. After being quenched with water, the mixture was extracted with EtOAc. The combined organic layers were washed with brine, dried, and concentrated. The crude mixture was purified on silica gel eluting with EtOAc in hexanes (0-60%) to give the desired product (5.4 g, 96.81%). LCMS: (M+Na)=244.9, (M-56+H)=167.0.

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 0.0276 mol, 4.47 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 0.025 mol, 5.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | THF | 26.3 mL | C1CCOC1 | C4H8O
solvent | THF | 33.6 mL | C1CCOC1 | C4H8O
solvent | THF | 6.72 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(cyanomethylene)piperidine-1-carboxylate | 5.4 g, 96.81% | C(#N)C=C1CCN(CC1)C(=O)OC(C)(C)C | C12H18N2O2
